US08871934B2
2-(5-methoxy-pyridin-2-yl)-benzoic acid diethylamide
Under an argon atmosphere, a mixture of tripotassium phosphate (6.24 g) and water (15 ml) was added to a mixture of 2-chloro-5-methoxy-pyridine (2.05 g), 2-(diethylcarbamoyl)benzeneboronic acid (4.65 g), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II) dichloride-dichloromethane complex (0.584 g) and toluene (30 ml), and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, water (20 ml), citric acid (2.2 g) and ethyl acetate were added and the mixture was stirred and filtered through celite. The filtrate was partitioned in a separatory funnel. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/1 to 1/2) to give a roughly purified product (1.144 g) of the title compound. This product was directly used for the next reaction without further purification.

reactant | tripotassium phosphate | 6.24 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-chloro-5-methoxy-pyridine | 2.05 g | ClC1=NC=C(C=C1)OC | C6H6ClNO
reactant | 2-(diethylcarbamoyl)benzeneboronic acid | 4.65 g | C(C)N(C(=O)C1=C(C=CC=C1)B(O)O)CC | C11H16BNO3
reactant | citric acid | 2.2 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
product | 2-(5-methoxy-pyridin-2-yl)-benzoic acid diethylamide | 1.144 g | C(C)N(C(C1=C(C=CC=C1)C1=NC=C(C=C1)OC)=O)CC | C17H20N2O2
